US08278482B2
A batch of 2-(piperidin-1-yl)ethyl 3-(benzyloxycarbonylamino)-3-methylbutanoate (9.45 g, 26.1 mmol) was dissolved in a solution of dichloromethane (40 ml) and methyl iodide (16.3 ml, 262 mmole). The mixture was stirred at room temperature for 18 hours. The reaction mixture was concentrated in vacuo, and the crude material was purified by pre-HPLC to give 8.74 g (66%) of 1-(2-(3-(benzyloxycarbonylamino)-3-methylbutanoyloxy)ethyl)-1-methylpiperidinium iodide. 1H NMR (CD3OD) δ 7.39-7.27 (m, 5 H), 5.05 (s, 2 H), 4.52-4.47 (m, 2 H), 3.70-3.64 (m, 2 H), 3.44-3.37 (m, 4 H), 3.09 (s, 3 H), 2.84 (s, 2 H), 1.92-1.86 (m, 4 H), 1.73-1.59 (m, 2 H), 1.39 (s, 6 H). MS (ESI+) calculated for C21H33N2O4+: 377.24, Found: 377.2 (M+).

reactant | 2-(piperidin-1-yl)ethyl 3-(benzyloxycarbonylamino)-3-methylbutanoate | 26.1 mmol, 9.45 g | C(C1=CC=CC=C1)OC(=O)NC(CC(=O)OCCN1CCCCC1)(C)C | C20H30N2O4
reactant | methyl iodide | 262 mmole, 16.3 ml | CI | CH3I
solvent | dichloromethane | 40 ml | ClCCl | CH2Cl2
product | 1-(2-(3-(benzyloxycarbonylamino)-3-methylbutanoyloxy)ethyl)-1-methylpiperidinium iodide | 8.74 g, 66% | [I-].C(C1=CC=CC=C1)OC(=O)NC(CC(=O)OCC[N+]1(CCCCC1)C)(C)C | InChI=1S/C21H32N2O4.HI/c1-21(2,22-20(25)27-17-18-10-6-4-7-11-18)16-19(24)26-15-14-23(3)12-8-5-9-13-23;/h4,6-7,10-11H,5,8-9,12-17H2,1-3H3;1H
